US07727988B2
5-(2-Chloro-6-methyl-pyridin-3-yl)-2,4-dimethoxy-pyrimidine (Prep106)
2,4-Dimethoxy-5-iodopyrimidine (957 mg, 3.59 mmol) was dissolved in degassed n-PrOH (18 ml) and then 2-chloro-6-methylpyridine-3-boronic acid (923 mg, 5.39 mmol), Na2CO3 (761 mg, 7.2 mmol), PPh3 (94 mg, 0.35 mmol) and Pd(OAc)2 (40 mg) were added. The suspension was stirred at reflux for 3 hours. The solvent was evaporated under vacuum and the crude was partitioned between water and DCM. The organic phase was dried (Na2SO4) and evaporated to give the title compound that was used without further purification in the next step (quantitative yield).

reactant | 2,4-Dimethoxy-5-iodopyrimidine | 3.59 mmol, 957 mg | COC1=NC=C(C(=N1)OC)I | C6H7IN2O2
reactant | 2-chloro-6-methylpyridine-3-boronic acid | 5.39 mmol, 923 mg | ClC1=NC(=CC=C1B(O)O)C | C6H7BClNO2
reactant | Na2CO3 | 7.2 mmol, 761 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.35 mmol, 94 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 18 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 40 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(2-Chloro-6-methyl-pyridin-3-yl)-2,4-dimethoxy-pyrimidine | quantitative yield | ClC1=NC(=CC=C1C=1C(=NC(=NC1)OC)OC)C | C12H12ClN3O2
